US05891871
Methyl 4,5-Methylenedioxy-2-(3-methoxy-4-nitrobenzoyl)phenylacetate
The title compound was prepared from methyl 3,4-methylenedioxyphenylacetate (1.6 g, 8.0 mmol) in ClCH2CH2Cl (50 mL), 3-methoxy-4-nitrobenzoic acid (1.8 g, 9.3 mmol) and P2O5 (4 g) as a light yellow solid (1.2 g, 3.2 mmol, 40%). 1H NMR (CDCl3) 7.84 (d, J=8.2, 1H), 7.54 (d, J=1.4, 1H), 7.32 (dd, J=8.2, 1.4, 1H), 6.85 (s, 2H), 6.07 (s, 2H), 4.00 (s, 3H), 3.85 (s, 2H), 3.64 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 8.0 mmol, 1.6 g | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | 3-methoxy-4-nitrobenzoic acid | 9.3 mmol, 1.8 g | COC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | P2O5 | 3.2 mmol, 4 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | ClCH2CH2Cl | 50 mL | C(CCl)Cl | C2H4Cl2
product | Methyl 4,5-Methylenedioxy-2-(3-methoxy-4-nitrobenzoyl)phenylacetate | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C18H15NO8
